US08071625B2
To a solution of NaH (60% dispersed in mineral oil, 60 mg, 1.49 mmol, 1.15 equiv.) in DMF (2.0 mL) was added (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)propan-2-ylcarbamate (360 mg, 1.3 mmol). The reaction mixture was stirred for 30 min followed by addition of methyl iodide (93 μL, 1.49 mmol, 1.15 equiv.) and stirred for 1 h. LC/MS indicated the reaction was complete. The reaction mixture was quenched with saturated NH4Cl and diluted with EtOAc. The organic layer was separated, washed with brine, dried over Na2SO4, and filtered. The filtrate was concentrated under reduced pressure to give (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)propan-2-yl(methyl)carbamate as an oil, which was used in the next step without further purification. LRMS (M-Boc+H+) m/z 204.1.

reactant | NaH | 1.49 mmol, 60 mg, 1.15 equiv. | [H-].[Na+]
reactant | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)propan-2-ylcarbamate | 1.3 mmol, 360 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC(OC(C)(C)C)=O | C14H31NO3Si
reactant | methyl iodide | 1.49 mmol, 93 μL, 1.15 equiv. | CI | CH3I
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)propan-2-yl(methyl)carbamate | [Si](C)(C)(C(C)(C)C)OC[C@H](C)N(C(OC(C)(C)C)=O)C | C15H33NO3Si
